US09079911B2
Step A: (Z)—N′-((2-Fluoro-6-iodobenzoyl)oxy)acetimidamide.
To a heterogeneous mixture of 2-fluoro-6-iodobenzoic acid (1.51 g, 5.66 mmol) at 0° C. in DCM (28 mL) was added oxalyl chloride (0.635 mL, 7.36 mmol) followed by DMF (0.15 mL). Gas evolution commenced immediately and after 5 min the ice bath was removed. When gas evolution had ceased and the mixture was homogeneous an aliquot was removed and quenched with MeOH. Formation of the methyl ester was confirmed by HPLC and the mixture was concentrated in vacuo. The viscous liquid was dissolved in fresh DCM (28 mL) and treated with solid N-hydroxyacetamidine (503 mg, 6.79 mmol) in several portions followed by TEA (1.2 mL, 8.49 mmol) at 0° C. After stirring for 14 h at ambient temperature the mixture was washed with saturated aqueous NaHCO3 solution. The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. Chromatography (Hex to 100% EtOAc/Hex) afforded the desired product as a colorless oil (1.57 g, 86%). MS (ESI) mass calculated for C9H8FIN2O2, 321.96; m/z found, 323.0. 1H NMR (500 MHz, CDCl3): 7.70-7.65 (m, 1H), 7.15-7.11 (m, 2H), 4.87 (br s, 2H), 2.06 (s, 3H).

reactant | 2-fluoro-6-iodobenzoic acid | 5.66 mmol, 1.51 g | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
reactant | oxalyl chloride | 7.36 mmol, 0.635 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.15 mL | CN(C)C=O | C3H7NO
reactant | N-hydroxyacetamidine | 6.79 mmol, 503 mg | ONC(C)=N | C2H6N2O
solvent | DCM | 28 mL | C(Cl)Cl | CH2Cl2
product | (Z)—N′-((2-Fluoro-6-iodobenzoyl)oxy)acetimidamide | 1.57 g, 86% | FC1=C(C(=O)O\N=C(\C)/N)C(=CC=C1)I | C9H8FIN2O2
